US08357718B2
A mixture of (S)-(+) 2-amino-1-propanol (1.04 g, 13.85 mmol), tert butyldimethylsilyl chloride (2.09 g, 13.85 mmol) and triethylamine (2 ml, 1.05 eq) was stirred in DCM overnight ca 16 h. The reaction was diluted with DCM, washed with water, satd. NH4Cl, brine, dried and evaporated to an oil. Silica gel purification of the crude using 3% MeOH/CH2Cl2 as eluent provided 2-(tert-Butyl-dimethyl-silanyloxy)-1-methyl-ethylamine (1.76 g, 80%); 1H NMR (300 MHz, CDCl3) 0.0 (s, 6H), 0.82 (s, 9H), 0.99 (d, J=6.5 Hz, 3H), 2.22 (bs, 2H), 2.98 (bs, 1H), 3.30 (dd, J=10 Hz, J=17.0 Hz, 1H), 3.48 (dd, J=10.0 Hz, J=4.3 Hz, 1H).

reactant | (S)-(+) 2-amino-1-propanol | 13.85 mmol, 1.04 g | N[C@H](CO)C | C3H9NO
reactant | tert butyldimethylsilyl chloride | 13.85 mmol, 2.09 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | triethylamine | 2 ml, 1.05 eq | C(C)N(CC)CC | C6H15N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(tert-Butyl-dimethyl-silanyloxy)-1-methyl-ethylamine | 1.76 g, 80% | C(C)(C)(C)[Si](OCC(C)N)(C)C | C9H23NOSi
